US07897595B2
To a solution of CuBr2 (0.64 g, 2.88 mmol) and nBuNO2 (0.42 ml, 3.6 mmol) in MeCN (14 ml) was added a solution of 4-bromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (0.92 g, 2.41 mmol) in MeCN (10 ml) at room temperature. The reaction mixture was then stirred at 50° C. for 4 h. After removal of MeCN under reduced pressure, the reaction was quenched with sat. aq. NaHCO3 and extracted with EtOAc. The organic layer was dried over Na2SO4, concentrated in vacuo and purified by column chromatography to give 813 mg (76%) of 3,4-dibromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 4.31 (0.5H), 4.01 (0.5H), 3.91 (3H), 3.85 (1H), 3.69 (1H), 3.39 (1H), 3.23 (1H), 3.12 (1H), 3.06 (1H), 1.17 (3H) ppm. A mixture of 3,4-dibromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (803 mg, 1.80 mmol), K2CO3 (746 mg, 5.40 mmol), MeOH (32 ml) and H2O (6 ml) was heated at 55-60° C. for 30 minutes. After removal of solvent under reduced pressure, the mixture was taken into aq. NaHCO3 and extracted with DCM. The organic layer was dried and concentrated in vacuo to give 580 mg (92%) of 3,4-dibromo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 3.89 (s, 3H), 3.63 (m, 1H), 3.21 (m, 2H), 3.09 (dd, 1H), 2.94 (m, 2H), 2.72 (dd, 1H), 1.25 (d, 3H) ppm.

reactant | 3,4-dibromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 1.80 mmol, 803 mg | BrC1=C(C2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1OC)Br | C13H13Br2F3N2O2
reactant | K2CO3 | 5.40 mmol, 746 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | 32 ml | CO | CH4O
solvent | H2O | 6 ml | O | H2O
product | 3,4-dibromo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 580 mg, 92% | BrC1=C(C2=C(CCNCC2C)N=C1OC)Br | C11H14Br2N2O
